US07667041B2
Synthesis of (E)-5-chloro-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]valeric acid indan-2-ylamide
To a DMF solution (200 mL) of (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid trifluoroacetic acid salt (13 g) and 2-amino indan hydrochloride (7.8 g), IPEA (24.1 mL), HOBT (9.4 g) and EDC (13.3 g) were added one by one, and the reaction solution was agitated at room temperature. Ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution after 15 hours, and the organic layer was partitioned. After the obtained organic layer was washed with a saturated sodium chloride solution, it was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. 6.93 g of the title compound was obtained by purifying the residue by silica gel chromatography (elution solvent:ethyl acetate). The physical properties of the compound are as follows.

reactant | (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid trifluoroacetic acid salt | 13 g | FC(C(=O)O)(F)F.ClCCC\C(\C(=O)O)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC
reactant | 2-amino indan hydrochloride | 7.8 g | Cl.NC1CC2=CC=CC=C2C1
reactant | IPEA | 24.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HOBT | 9.4 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EDC | 13.3 g
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | (E)-5-chloro-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]valeric acid indan-2-ylamide | 6.93 g | C1C(CC2=CC=CC=C12)NC(/C(/CCCCl)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C26H28ClN3O2
